US07842696B2
DIPEA (184 mg, 0.24 mL, 1.42 mmol) was added to a stirred solution of 9H-fluorene-2-carboxylic acid (100 mg, 0.47 mmol) in DMF (2 mL). HOBT (64 mg, 0.47 mmol) and EDCI (109 mg, 0.57 mmol) were then added at room temperature. After 2 minutes 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (167 mg, 0.47 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added, filtered the solid precipitated. The solid obtained was recrystallized from a mixture of ethyl acetate and hexane afford 105 mg (43.4%) of 9H-fluorene-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 98.25%. 1H NMR (DMSO-d6): δ 8.6 (m, 1H), 8.1 (s, 1H), 8.0-7.4 (m, 10H), 4.2 (bs, 2H), 4.0 (s, 2H), 3.8-3.4 (m, 6H), 3.2 (b, 2H).

reactant | DIPEA | 1.42 mmol, 0.24 mL, 184 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 9H-fluorene-2-carboxylic acid | 0.47 mmol, 100 mg | C1=C(C=CC=2C3=CC=CC=C3CC12)C(=O)O | C14H10O2
reactant | HOBT | 0.47 mmol, 64 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.57 mmol, 109 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.47 mmol, 167 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 9H-fluorene-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 105 mg, 43.4% | O=C(CNC(=O)C1=CC=2CC3=CC=CC=C3C2C=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C28H24F3N3O3
